US03953460
1-Cyano-2-methylamino-2-[2-(4-methyl-5-imidazolyl methylthio)ethylamino] ethylene
4-Methyl-5-[(2-aminoethyl)thiomethyl]imidazole (3.5g) was added to a solution of 1-cyano-2-ethoxy-2-methylaminoethylene (3.1g) and the solution was stirred for 5 hours at 100°. The product was chromatographed on a column of neutral alumina with elution bychloroform/ethyl acetate (1:1) to give the title compound as a glass.

reactant | 4-Methyl-5-[(2-aminoethyl)thiomethyl]imidazole | 3.5g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | 1-cyano-2-ethoxy-2-methylaminoethylene | 3.1g | C(#N)C=C(NC)OCC | C6H10N2O
product | 1-Cyano-2-methylamino-2-[2-(4-methyl-5-imidazolyl methylthio)ethylamino] ethylene | C(#N)C=C(NCCSCC1=C(N=CN1)C)NC | C11H17N5S
